US08349824B2
The product was prepared in the same manner as described in example 44d using 2-(6-fluoropyridin-2-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-amine (350 mg, 1.53 mmol) and 4-(ethoxycarbonyl)-1-methyl-1H-pyrazole-5-carboxylic acid (363 mg, 1.83 mmol) as starting materials. The reaction affords 5-[2-(6-fluoro-pyridin-2-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl]-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester (253.1 mg, 40.5%) as white solid. mp.: 290° C., MS: m/z=410.0 (M+H+).

reactant | 2-(6-fluoropyridin-2-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-amine | 1.53 mmol, 350 mg | FC1=CC=CC(=N1)C1=NN2C(C=C(C=C2)N)=N1 | C11H8FN5
reactant | 4-(ethoxycarbonyl)-1-methyl-1H-pyrazole-5-carboxylic acid | 1.83 mmol, 363 mg | C(C)OC(=O)C=1C=NN(C1C(=O)O)C | C8H10N2O4
product | 5-[2-(6-fluoro-pyridin-2-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl]-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester | 253.1 mg, 40.5% | C(C)OC(=O)C=1C=NN(C1C(NC1=CC=2N(C=C1)N=C(N2)C2=NC(=CC=C2)F)=O)C | C19H16FN7O3
